US04427437
Preparation of 5-Bromo-2-(4-methoxyphenoxy)-pyrimidine (1)
5-Bromo-2-chloropyrimidine (3.0 g), p-methoxyphenol (2.5 g), methyl ethyl ketone (50 ml--dried over anhydrous potassium carbonate) and anhydrous potassium carbonate (2.5 g) were heated under reflux with stirring for 6 hours. The solvent was evaporated under reduced pressure, the residue treated with water and the precipitated compound collected by filtration. The product was treated with 5% sodium hydroxide aqueous solution and the mixture stirred for approximately 30 minutes. The solid was collected by filtration, washed with water and recrystallised from methanol/water to give the title compound (3.4 g), m.p. 92° C.

reactant | 5-Bromo-2-chloropyrimidine | 3.0 g | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | p-methoxyphenol | 2.5 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | potassium carbonate | 2.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 50 ml | C(C)C(=O)C | C4H8O
product | 5-Bromo-2-(4-methoxyphenoxy)-pyrimidine | 3.4 g | BrC=1C=NC(=NC1)OC1=CC=C(C=C1)OC | C11H9BrN2O2
